US08802664B2
A mixture of benzothiazol-2-ylphenylmethanol (0.36 g), 4-hydroxy-1-methylpiperidine (0.17 g) and para-toluenesulfonic acid (0.57 g) in toluene (22 mL) is heated overnight in a Dean-Stark apparatus. The mixture is cooled back to room temperature and poored into water, alcalinised with 1N sodium hydroxyde and extracted twice with ethyl acetate. Pooled organic extracts are washed with brine, dried over magnesium sulfate and concentrated. The residue is purified by column chromatography over silica gel (gradient dichloromethane/methanol from 98/2 to 90/10) to give 2-[(1-methylpiperidin-4-yloxy)phenylmethyl]benzothiazole melting at 115° C.

reactant | benzothiazol-2-ylphenylmethanol | 0.36 g | S1C(=NC2=C1C=CC=C2)C(O)C2=CC=CC=C2 | C14H11NOS
reactant | 4-hydroxy-1-methylpiperidine | 0.17 g | OC1CCN(CC1)C | C6H13NO
reactant | para-toluenesulfonic acid | 0.57 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium | 1N | [Na] | Na
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-[(1-methylpiperidin-4-yloxy)phenylmethyl]benzothiazole | CN1CCC(CC1)OC(C=1SC2=C(N1)C=CC=C2)C2=CC=CC=C2 | C20H22N2OS
